US04018824
1-(tert.-butyl)-3-azetidinol and 5,6,7,8-tetrahydro-α-naphthol were reacted in the same manner as in Example 1 to form 1-(5,6,7,8-tetrahydro-α-naphthoxy)-3-(tert.-butylamino)-2-propanol. A hydrochloric acid gas was blown into the obtained propanol. As a result 1-(5,6,7,8-tetrahydro-1-naphthoxy)-3-(tert.-butylamino)-2-propanol hydrochloride having a melting point of 148°-150° C was obtained. The yield was 70%.

reactant | 1-(tert.-butyl)-3-azetidinol | C(C)(C)(C)N1CC(C1)O | C7H15NO
reactant | 5,6,7,8-tetrahydro-α-naphthol | C1(=CC=CC=2CCCCC12)O | C10H12O
product | 1-(5,6,7,8-tetrahydro-α-naphthoxy)-3-(tert.-butylamino)-2-propanol | C1(=CC=CC=2CCCCC12)OCC(CNC(C)(C)C)O | C17H27NO2
